US04399133
2-(2-Aminothiazol-4-yl)-2-methoxyiminoacetic acid (syn isomer, 0.76 g.), N,N-dimethylformamide (0.33 g.), phosphoryl chloride (1.46 g.), trimethylsilylacetamide (0.5 g.) and ethyl acetate (10 ml.) were treated to give the activated acid solution in a conventional manner. On the other hand, trimethylsilylacetamide (2.7 g.) was added to a suspension of 7-amino-3-tosyloxy-3-cephem-4-carboxylic acid (1.0 g.) in ethyl acetate (15 ml.) and stirred at room temperature. To the solution was added the activated acid solution obtained above at -15° C. all at once, and stirred at -5°-5° C. for an hour. After the resultant solution was chilled to -20° C., water (30 ml.) was added to the chilled solution and adjusted to pH 6.5 with an aqueous solution of sodium bicarbonate. The insoluble substance was removed by filtration. The aqueous layer was separated and adjusted to pH 3.0 with hydrochloric acid. The precipitates were collected by filtration and dried to give 7-[2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-tosyloxy-3-cephem-4-carboxylic acid (syn isomer, 1.0 g.).

reactant | 2-(2-Aminothiazol-4-yl)-2-methoxyiminoacetic acid | 0.76 g | NC=1SC=C(N1)C(C(=O)O)=NOC | C6H7N3O3S
reactant | phosphoryl chloride | 1.46 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | trimethylsilylacetamide | 0.5 g | C[Si](C)(C)CC(=O)N | C5H13NOSi
reactant | trimethylsilylacetamide | 2.7 g | C[Si](C)(C)CC(=O)N | C5H13NOSi
reactant | 7-amino-3-tosyloxy-3-cephem-4-carboxylic acid | 1.0 g | NC1[C@@H]2N(C(=C(CS2)OS(=O)(=O)C2=CC=C(C)C=C2)C(=O)O)C1=O | C14H14N2O6S2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethyl acetate | 15 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 30 ml | O | H2O
solvent | N,N-dimethylformamide | 0.33 g | CN(C=O)C | C3H7NO
product | 7-[2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-tosyloxy-3-cephem-4-carboxylic acid | 1.0 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)OS(=O)(=O)C2=CC=C(C)C=C2)C(=O)O)C1=O)=NOC | C20H19N5O8S3
